US07884112B2
Benzo[1,3]dioxole-5-carboxylic acid N′-(5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carbonyl)hydrazide
To a solution of 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid hydrazide (Preparation 10—route 2, 0.100 g, 0.48 mmol) in DMF (4 mL) was added HOBt (0.064 g, 0.48 mmol), EDCI (0.110 g, 0.58 mmol), DIPEA (200 μL, 0.96 mmol) and piperonylic acid (0.079 g, 0.48 mmol). The reaction mixture was stirred at rt for 16 h. The reaction mixture was poured into water (75 mL) and extracted with ethyl acetate (2×150 mL). The combined organic extract was washed with saturated sodium chloride (75 mL), dried (MgSO4) and concentrated in vacuo to give a solid. The solid obtained was purified by recrystallisation from methanol to give the title compound. m/z (ES+)=359 [M+H]+; RT=2.92 min.

reactant | 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid hydrazide | 0.48 mmol, 0.100 g | ClC=1C=C2C(=CN1)NC(=C2)C(=O)NN | C8H7ClN4O
reactant | HOBt | 0.48 mmol, 0.064 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.58 mmol, 0.110 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | DIPEA | 0.96 mmol, 200 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | piperonylic acid | 0.48 mmol, 0.079 g | C(C1=CC=2OCOC2C=C1)(=O)O | C8H6O4
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | water | 75 mL | O | H2O
product | Benzo[1,3]dioxole-5-carboxylic acid N′-(5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carbonyl)hydrazide | ClC=1C=C2C(=CN1)NC(=C2)C(=O)NNC(=O)C2=CC1=C(OCO1)C=C2 | C16H11ClN4O4
